US07687510B2
(1S)-2-Methoxy-1-methyl-2-oxoethyl 4-(4-cyanophenyl)-6-methyl-2-oxo-1-[3-(tri-fluoromethyl)phenyl]-1,2,3,4-tetrahydro-5-pyrimidinecarboxylate
200 mg (0.98 mmol) N-[3-(trifluoromethyl)phenyl]urea, 129 mg (0.98 mmol) 4-cyanobenzaldehyde, 92 mg (0.49 mmol) (1S)-2-methoxy-1-methyl-2-oxoethyl 3-oxobutanoate, and 295 mg polyphosphoric acid ethyl ester are suspended in 3 ml of THF. The mixture is stirred at reflux for 18 hours. After cooling down to room temperature, the solvent is removed in vacuo and the residue is purified by column chromatography on silica with cyclohexane/ethyl acetate as eluent. A mixture of diastereoisomers is obtained.

reactant | N-[3-(trifluoromethyl)phenyl]urea | 0.98 mmol, 200 mg | FC(C=1C=C(C=CC1)NC(=O)N)(F)F | C8H7F3N2O
reactant | 4-cyanobenzaldehyde | 0.98 mmol, 129 mg | C(#N)C1=CC=C(C=O)C=C1 | C8H5NO
reactant | (1S)-2-methoxy-1-methyl-2-oxoethyl 3-oxobutanoate | 0.49 mmol, 92 mg | O=C(CC(=O)O[C@H](C(=O)OC)C)C | C8H12O5
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | (1S)-2-Methoxy-1-methyl-2-oxoethyl 4-(4-cyanophenyl)-6-methyl-2-oxo-1-[3-(tri-fluoromethyl)phenyl]-1,2,3,4-tetrahydro-5-pyrimidinecarboxylate | C(#N)C1=CC=C(C=C1)C1NC(N(C(=C1C(=O)O[C@H](C(=O)OC)C)C)C1=CC(=CC=C1)C(F)(F)F)=O | C24H20F3N3O5
